US04246267
35 g. 2,6-dimethyl thiophenol are dissolved in a solution of 15.6 g sodium hydroxide in 210 ml water, under stirring and inert atmospher. After complete dissolution 34 g chloro ethanol are added portionwise thereto and the milky suspension is thereafter heated to reflux for one hour. The mixture reverts to room temperature and is extracted three times with ester to isolate the thus formed oily product. The ethereous solutions are washed with water, dried on sodium sulphate, filtered and evaporated off. 2-(2,6-dimethyl phenylthio) 1-hydroxy ethane is obtained with a yield of 95%. It is further used for the next step without any purification

reactant | 2,6-dimethyl thiophenol | CC1=C(C(=CC=C1)C)S | C8H10S
reactant | chloro ethanol | 34 g | ClC(C)O | C2H5ClO
solvent | sodium hydroxide | 15.6 g | [OH-].[Na+]
solvent | water | 210 ml | O | H2O
product | 2-(2,6-dimethyl phenylthio) 1-hydroxy ethane | yield of 95% | CC1=C(C(=CC=C1)C)SCCO | C10H14OS
